US04585767
4-Nitrobenzyl 2-[4(R)-chloro-3(S)-{1(R)-hydroxyethyl}azetidin-2-on-1-yl]-3-(4-methylthiophenoxy)-3-trimethylacetylthio-propenate
To a stirred solution of 1 g of 4-nitrobenzyl 2-[4(R)-ethylthio-3(S)-{1(R)-hydroxyethyl}-azetidin-2-on-1-yl]-3-(4-methylthiophenoxy)-3-trimethylacetylthio-propenate in dichloromethane at -40° was added a solution of 1.6 mmol of chlorine in carbon tetrachloride. After 30 minutes the reaction was warmed to room temperature and evaporated to dryness. Chromatography over silica gel and elution with hexane-ethyl acetate mixtures afforded the title compound as a pale yellow foam (0.66 g, 68%).

reactant | 4-nitrobenzyl 2-[4(R)-ethylthio-3(S)-{1(R)-hydroxyethyl}-azetidin-2-on-1-yl]-3-(4-methylthiophenoxy)-3-trimethylacetylthio-propenate | 1 g | C(C)S[C@@H]1[C@H](C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)SC1=CC=C(C=C1)C)=O)[C@@H](C)O | C29H34N2O6S3
reactant | chlorine | 1.6 mmol | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Nitrobenzyl 2-[4(R)-chloro-3(S)-{1(R)-hydroxyethyl}azetidin-2-on-1-yl]-3-(4-methylthiophenoxy)-3-trimethylacetylthio-propenate | 0.66 g, 68% | Cl[C@@H]1[C@H](C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)SC1=CC=C(C=C1)C)=O)[C@@H](C)O | C27H29ClN2O6S2
